US04620947
first adding, under continuous agitation, a sufficient amount of a powdered magnesium oxide or magnesium hydroxide to an aqueous radioactive waste solution containing boric acid, the temperature of the water solution being 55-95 degrees C. to produce a magnesium borate derivative;

reactant | magnesium oxide | [O-2].[Mg+2]
reactant | magnesium hydroxide | [OH-].[Mg+2].[OH-]
reactant | boric acid | B(O)(O)O | BH3O3
solvent | water | O | H2O
product | magnesium borate | B([O-])([O-])[O-].[Mg+2].B([O-])([O-])[O-].[Mg+2].[Mg+2] | InChI=1S/2BO3.3Mg/c2*2-1(3)4;;;/q2*-3;3*+2
